US05284847
A mixture of methyl 3-bis(t-butoxycarbonyl)amino-4-cyanothiophene-2-carboxylate (38 g, 99.5 mmol) in methanol (160 ml) and 2N potassium hydroxide (50 ml) was heated at 50° C. for 3 h. The methanol was evaporated and the mixture was acidified (pH=5) with acetic acid. The mixture was extracted with ether, dried and concentrated in vacuo. The residue was triturated with petroleum ether and the crystallinic fraction was filtered off to give 32 g (87%) of 3-bis(t-butoxycarbonyl)amino-4-cyanothiophene-2-carboxylic acid. M.p. 159°-160° C. 1H-NMR (CDCl3, δ): 1.45 (s, 18H), 8.1 (s, 1H), 8.5 (br.s, 1H).

reactant | methyl 3-bis(t-butoxycarbonyl)amino-4-cyanothiophene-2-carboxylate | 99.5 mmol, 38 g | C(C)(C)(C)OC(=O)N(C1=C(SC=C1C#N)C(=O)OC)C(=O)OC(C)(C)C | C17H22N2O6S
solvent | methanol | 160 ml | CO | CH4O
solvent | potassium hydroxide | 2N, 50 ml | [OH-].[K+]
product | 3-bis(t-butoxycarbonyl)amino-4-cyanothiophene-2-carboxylic acid | 32 g, 87% | C(C)(C)(C)OC(=O)N(C1=C(SC=C1C#N)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O6S
